US05021429
N-Methyl-N'-[2-[[3-(N,N-dimethylaminomethyl)phenyl]methylthio]ethyl]-2-nitro-1,1-ethenediamine
2-[[3-(N,N-Dimethylaminomethyl)phenyl]methylthio]ethanamine (3 g) and 1-nitro-2,2-bis(methylthio)ethylene (2.2 g) were heated under reflux in acetonitrile for 7 hours. The solvent was removed and the residual oil used without further purification. The oil was treated with ethanolic methylamine (33%, 34 ml) and heated under reflux for 3 hours. The solvent was removed and the residual oil was purified by column chromatography on silica with methanol. The resultant orange oil was triturated with ether to give the title compound as a white crystalline solid (0.23 g) m.p. 62°-4°. TLC silica; ethyl acetate:isopropanol:water:0.88 ammonia (25:15:8:2) Rf 0.36.

reactant | 2-[[3-(N,N-Dimethylaminomethyl)phenyl]methylthio]ethanamine | 3 g | CN(C)CC=1C=C(C=CC1)CSCCN | C12H20N2S
reactant | 1-nitro-2,2-bis(methylthio)ethylene | 2.2 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | acetonitrile | C(C)#N | C2H3N
product | N-Methyl-N'-[2-[[3-(N,N-dimethylaminomethyl)phenyl]methylthio]ethyl]-2-nitro-1,1-ethenediamine | 0.23 g | CNC(=C[N+](=O)[O-])NCCSCC1=CC(=CC=C1)CN(C)C | C15H24N4O2S
